US08124606B2
To a suspension of tert-butyl 4-(4-cyano-2-methylphenyl)piperazine-1-carboxylate (3.685 g, 12.23 mmol) in EtOH (Ratio: 1.000, Volume: 50 mL) and Water (Ratio: 1.000, Volume: 10 mL) was added Sodium hydroxide solution (8.48 mL, 162 mmol) at 23° C. Rinsed sodium hydroxide forward with Water (Ratio: 1.000, Volume: 2.5 mL) The reaction was stirred at 90° C. for 10 hr. The reaction mixture was cooled to 23° C., neutralized with 3N HCl (52 mL), filtered, rinsed with H2O (3×10 mL), and the resulting solid was dried in vacuo to provide 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-methylbenzoic acid (3.588 g, 11.20 mmol, 92% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H) 2.29 (s, 3H) 2.81-2.90 (m, 4H) 3.42-3.53 (m, 4H) 7.05 (d, J=8.08 Hz, 1H) 7.70-7.77 (m, 2H) 12.61 (br. s., 1H). ESI-MS: m/z 321.2 (M+H)−.

reactant | tert-butyl 4-(4-cyano-2-methylphenyl)piperazine-1-carboxylate | 12.23 mmol, 3.685 g | C(#N)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C17H23N3O2
reactant | Sodium hydroxide | 162 mmol, 8.48 mL | [OH-].[Na+]
reactant | HCl | 3N, 52 mL | Cl | ClH
reactant | Water | 10 mL | O | H2O
reactant | Water | 2.5 mL | O | H2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-3-methylbenzoic acid | 11.20 mmol, 3.588 g, 92% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)C | C17H24N2O4
